US04415573
2-Phenyl-1,3-dioxolan (15 g) prepared from benzaldehyde and ethylene glycol was added to bis(trimethylsilyl)-5-fluorouracil prepared as in Example 1 from 5-fluorouracil (10 g). Then a solution of anhydrous stannic chloride (6 ml) in chloroform (15 ml) was added dropwise to the mixture over one hour while stirring under cooling in an ice bath. Following stirring at room temperature for one hour, the reaction mixture was poured into methanol (200 ml) containing sodium bicarbonate (40 g) followed by stirring at room temperature for one hour. The precipitate was removed by filtration and the filtrate was evaporated under reduced pressure to dryness. Acetic anhydride (20 ml) and pyridine (20 ml) were added to the residue and the mixture was left to stand at room temperature for 3 hours. The reaction mixture was poured into ice-water, and the resulting oil was extracted with chloroform (100 ml). The chloroform layer was washed with hydrochloric acid and then with water, and evaporated under reduced pressure to remove the solvent. The residue was purified by column chromatography using silica gel and chloroform as the eluent, and treated with methanol to give 6.3 g of crystalline 1-[α-(2-acetoxyethoxy)benzyl]-5-fluorouracil.

reactant | 2-Phenyl-1,3-dioxolan | 15 g | C1(=CC=CC=C1)C1OCCO1 | C9H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | bis(trimethylsilyl)-5-fluorouracil | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
reactant | 5-fluorouracil | 10 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | sodium bicarbonate | 40 g | C([O-])(O)=O.[Na+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 200 ml | CO | CH4O
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-[α-(2-acetoxyethoxy)benzyl]-5-fluorouracil | 6.3 g | C(C)(=O)OCCOC(C1=CC=CC=C1)N1C(=O)NC(=O)C(=C1)F | C15H15FN2O5
